US05506219
A dry 500 ml 3-neck flask fitted with a reflux condenser and an addition funnel was charged with Mg turnings (2.80 gm, 0.115 mol) and dry Et2O (35 ml). A solution of 1-bromo- 4-fluorobenzene (18.5 gm, 0.106 mol) in Et2O (20 ml) was added to the addition funnel and approximately 15% of this solution was added to the Mg/Et2O mixture. Once the exothermic reaction had begun (ultrasound was required), the aryl bromide solution was added at such a rate as to maintain a gentle reflux. After the addition was complete, the mixture was refluxed for an additional 30 minutes, then cooled to 0° C. Dropwise addition of a solution of 2-aminobenzonitrile (5.00 gm, 0.042 mol) in dry Et2O (20 ml) over a 10 minute period resulted in the formation of a thick yellow slurry. The resulting mixture was warmed to room temperature and stirred overnight. The solution was then cooled to 0° C. and cautiously quenched with 10% HCl (50 ml). After stirring for 5 minutes, the solution was made basic with 10% NaOH (70 ml) and the aqueous layer was extracted three times with Et2O. The combined Et2O layers were pooled, washed with brine, dried (Na2SO4), filtered and stripped to yield an orange oil. The oil was chromatographed (Flash, Merck SiO2, 25% EtOAc in hexane) to give impure 2-aminophenyl 4-fluorophenyl methanone (~1 gm) and the corresponding impure imine (~5.8 gm, Rf 0.28 in 30% EtOAc in hexane). The imine was stirred with 10% HCl (100 ml) and silica gel (750 mg) for 45 minutes. The mixture was then basicified with NaOH pellets (14 gm) and the aqueous layer was extracted twice with Et2O. The combined Et2O layers were washed with brine, dried (Na2SO4), filtered and stripped to yield a solid. This solid was pooled with impure 2-aminophenyl 4-fluorophenyl methanone from above and recrystallized in hot EtOH/H2O to give analytically pure 2-aminophenyl 4-fluorophenyl methanone as yellow crystals (3.28 gm, 36%).

reactant | 1-bromo- 4-fluorobenzene | 0.106 mol, 18.5 gm | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | 2-aminobenzonitrile | 0.042 mol, 5.00 gm | NC1=C(C#N)C=CC=C1 | C7H6N2
reactant | Et2O | 20 ml | CCOCC | C4H10O
reactant | Et2O | 20 ml | CCOCC | C4H10O
reactant | Et2O | 35 ml | CCOCC | C4H10O
product | 2-aminophenyl 4-fluorophenyl methanone | ~1 gm | NC1=C(C=CC=C1)C(=O)C1=CC=C(C=C1)F | C13H10FNO
